US04647560
5-Methyl-1'-benzyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one
A solution of 12.2 g (0.12 mole) of triethylamine in 100 ml of methylene chloride is added dropwise to a mixture of 5.4 g (0.04 mole) of 2-aminocetophenone and 13.0 g (0.04 mole) of 1-benzyl-4-amino-4-piperidine-carboxylic acid chloride dihydrochloride (prepared from 9.4 g (0.04 mole) of 1-benzyl-4-amino-4-carboxypiperidine by reaction with excess phosphorus-V chloride in methylene chloride at 25° C.) in 400 ml of ethylene chloride at 0° C., while stirring and under an N2 atmosphere, and the mixture is stirred at 0° C. for 1 hour and finally at 25° C. for 2 hours. It is then poured onto ice, the pH is brought to 10 with sodium hydroxide solution and the reaction product is extracted with methylene chloride. For purification, the product is chromatographed on silica gel 60 (Merck), a methylene chloride/methanol mixture (10:1) being used as the eluting agent.

reactant | triethylamine | 0.12 mole, 12.2 g | C(C)N(CC)CC | C6H15N
reactant | 1-benzyl-4-amino-4-piperidine-carboxylic acid chloride dihydrochloride | 0.04 mole, 13.0 g | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)Cl)N
reactant | 1-benzyl-4-amino-4-carboxypiperidine | 0.04 mole | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)O)N | C13H18N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | ethylene chloride | 400 ml | C(CCl)Cl | C2H4Cl2
product | 5-Methyl-1'-benzyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | CC1=NC2(CCN(CC2)CC2=CC=CC=C2)C(NC2=C1C=CC=C2)=O | C21H23N3O
